2112-11-24 06:34:00 Physician Resident Progress Note
Chief Complaint: intubated and sedated
   24 Hour Events:
 ULTRASOUND - At [**2112-11-23**] 07:18 PM
   Abdominal US
 ARTERIAL LINE - START [**2112-11-24**] 05:07 AM
   - Getting Vanc/CTX/Zosyn and fluids
   - Abdominal US without significant ascites
   - Repeat labs with leucocytosis of 33 from 25
   - Repeat labs: Sodium, Potassium and Cr improved with fluids
   - Given albumin 100 grams for empiric SBP treatment
   - Patient intubated for impending respiratory failure
   - Pre-intubation ABG 7.22/39/117
   - Post intubation
   - Given Lasix 40 IV with minimal output
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-23**] 05:00 PM
   Ceftriaxone - [**2112-11-23**] 05:19 PM
   Azithromycin - [**2112-11-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-24**] 01:04 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2112-11-24**] 03:28 AM
   Furosemide (Lasix) - [**2112-11-24**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-24**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 111 (102 - 118) bpm
   BP: 150/52(76) {105/31(51) - 150/57(76)} mmHg
   RR: 11 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73 kg (admission): 73 kg
           Total In:
                                                                  3,975 mL
                                                                  1,337 mL
   PO:
           TF:
   IVF:
                                                                  2,675 mL
                                                                  1,127 mL
   Blood products:
                                                                    300 mL
                                                                    100 mL
   Total out:
                                                                    490 mL
                                                                    165 mL
   Urine:
                                                                    490 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,485 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.22/39/117/17/-11
   Ve: 7.6 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, dry MM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, flushed face
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   81 K/uL
   12.6 g/dL
   77 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.4 mEq/L
   40 mg/dL
   99 mEq/L
   129 mEq/L
   37.4 %
   33.3 K/uL
        [image002.jpg]
                            [**2112-11-23**]  08:25 PM
                            [**2112-11-23**]  09:29 PM
                            [**2112-11-24**]  01:17 AM
                            [**2112-11-24**]  03:31 AM
                            [**2112-11-24**]  05:16 AM
   WBC
   33.3
   Hct
   37.4
   Plt
   81
   Cr
   1.8
   1.6
   TCO2
   15
   15
   17
   Glucose
   60
   77
   Other labs: PT / PTT / INR:37.8/66.1/4.1, ALT / AST:15/51, Alk Phos / T
   Bili:187/3.2, Lactic Acid:5.8 mmol/L, Albumin:4.0 g/dL, LDH:359 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   49F with hepatic encephalopathy and sepsis.
   Sepsis: Given tachycardia, tachypnea and elevated white count, patient
   fits criteria for sepsis.  Likely source of infection is either a
   pneumonia as a consolidation was seen on her CXR, or SBP given her
   underlying liver disease.
   - Vancomycin, Zosyn, Azithromycin for empiric CAP coverage
   - Zosyn for empiric SBP coverage
   - Albumin for empiric SBP treatment
   - Will try for either abdominal guided paracentesis or thoracentesis.
   Will need FFP prior to procedure.
   - fluids not running this am as she
s fluid overloaded.
   - Lactate trending down
   - Patient will need central line today
   - Send endotracheal sputum culture
   Respiratory failure:  Most likely cause was volume overload due to
   saline repletion and albumin.  Other considerations are noncardiogenic
   respiratory failure. Her gas prior to intubation revealed a decreasing
   pH and increasing CO2.  She underwent nonemergent intubation.
   - Currently on AC  - wean FiO2 as tolerated.  Likely will need
   increased PEEP possible volume overload.
   - Lasix has been tried to remove fluid, although she has only voided 30
   cc to 40 IV.  Home dose is 60 mg qd
   - Increase rate to improve acidosis
   Liver Failure: stable at this point without objective evidence of
   decompensation
   - s/p albumin on [**2112-11-23**]
   - Urine Na < 10, suggesting hepatorenal syndrome, although unclear if
   patient is euvolemic at this time. Will get in touch with both Liver
   and Kidney
   - Hold Lasix/Aldactone at this time
   - NGT placed for lactulose administration
   Coagulopathy: Patient now with increasing coagulation parameters
   - Will check hemolysis labs
   -  Will check smear to assess for schistocytes
   -  FFP prior to procedures
   ARF: Improving with Cr 1.6.
   - Will replete aggressively with saline and trend electrolytes
   - Daily Urine lytes to in the am to assess for hepatorenal syndrome
   Metabolic Acidosis: Improving with saline.
   HTN: treated as an outpatient with Lasix/Aldactone
   - Holding these medications at this time given sepsis
   Migraines: patient on a triptan as an outpatient.  Will hold at this
   time.
   Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-23**] 05:33 PM
   Arterial Line - [**2112-11-24**] 05:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-25 05:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-11-24**] 09:00 AM
   #1 stick 0900 #2 Aline 0915
 SPUTUM CULTURE - At [**2112-11-24**] 09:25 AM
 MULTI LUMEN - START [**2112-11-24**] 08:35 PM
   -placed RIJ
   -desatted to 84% with positioning to left decubitus position
   -CXR with bilateral pulmonary infiltrates, started on ARDS net
   protocol.
   -Unable to tap pleural effusion, difficult patient positioning
   -smear is without schistocytes
   -Hepatology thinks patient in hepatorenal syndrome, started octreotide
   and midodrine
   -started on flagyl
   -Cr continued to worsen overnight
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-23**] 05:00 PM
   Ceftriaxone - [**2112-11-23**] 05:19 PM
   Azithromycin - [**2112-11-24**] 06:30 PM
   Metronidazole - [**2112-11-24**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-25**] 01:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-11-24**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-25**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 90 (75 - 111) bpm
   BP: 95/39(58) {91/39(57) - 110/53(71)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
    CVP: 16 (16 - 28)mmHg
   Mixed Venous O2% Sat: 83 - 83
   Total In:
                                                                  6,233 mL
                                                                    916 mL
   PO:
   TF:
   IVF:
                                                                  4,193 mL
                                                                    916 mL
   Blood products:
                                                                  1,800 mL
   Total out:
                                                                    246 mL
                                                                     10 mL
   Urine:
                                                                    246 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,987 mL
                                                                    906 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 80%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.21/51/104/19/-7
   Ve: 9.7 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   8.1 g/dL
   87 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   49 mg/dL
   101 mEq/L
   132 mEq/L
   26.1 %
   22.3 K/uL
        [image002.jpg]
                            [**2112-11-24**]  07:31 AM
                            [**2112-11-24**]  09:29 AM
                            [**2112-11-24**]  02:35 PM
                            [**2112-11-24**]  03:10 PM
                            [**2112-11-24**]  05:39 PM
                            [**2112-11-24**]  11:47 PM
                            [**2112-11-25**]  12:18 AM
                            [**2112-11-25**]  02:00 AM
                            [**2112-11-25**]  03:26 AM
                            [**2112-11-25**]  03:42 AM
   WBC
   22.6
   24.1
   22.3
   Hct
   26.0
   26.2
   26.1
   Plt
   71
   67
   61
   Cr
   2.0
   2.5
   2.5
   TCO2
   19
   19
   20
   22
   21
   20
   21
   Glucose
   81
   86
   87
   Other labs: PT / PTT / INR:27.4/48.1/2.7, ALT / AST:22/100, Alk Phos /
   T Bili:138/4.7, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:150 mg/dL, Lactic Acid:3.9 mmol/L,
   Albumin:4.0 g/dL, LDH:359 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL, PO4:6.2
   mg/dL
   Assessment and Plan
   Assessment and Plan
   49F with hepatic encephalopathy and sepsis.
   Sepsis: Given tachycardia, tachypnea and elevated white count, patient
   fits criteria for sepsis.  Likely source of infection is either a
   pneumonia as a consolidation was seen on her CXR, or SBP given her
   underlying liver disease.
   - Vancomycin, Zosyn, Azithromycin for empiric CAP coverage
   - Zosyn for empiric SBP coverage
   - Albumin for empiric SBP treatment
   - Will try for either abdominal guided paracentesis or thoracentesis.
   Will need FFP prior to procedure.
   - fluids not running this am as she
s fluid overloaded.
   - Lactate trending down
   - Patient will need central line today
   - Send endotracheal sputum culture
   Respiratory failure:  Most likely cause was volume overload due to
   saline repletion and albumin.  Other considerations are noncardiogenic
   respiratory failure. Her gas prior to intubation revealed a decreasing
   pH and increasing CO2.  She underwent nonemergent intubation.
   - Currently on AC  - wean FiO2 as tolerated.  Likely will need
   increased PEEP possible volume overload.
   - Lasix has been tried to remove fluid, although she has only voided 30
   cc to 40 IV.  Home dose is 60 mg qd
   - Increase rate to improve acidosis
   Liver Failure: stable at this point without objective evidence of
   decompensation
   - s/p albumin on [**2112-11-23**]
   - Urine Na < 10, suggesting hepatorenal syndrome, although unclear if
   patient is euvolemic at this time. Will get in touch with both Liver
   and Kidney
   - Hold Lasix/Aldactone at this time
   - NGT placed for lactulose administration
   Coagulopathy: Patient now with increasing coagulation parameters
   - Will check hemolysis labs
   -  Will check smear to assess for schistocytes
   -  FFP prior to procedures
   ARF: Improving with Cr 1.6.
   - Will replete aggressively with saline and trend electrolytes
   - Daily Urine lytes to in the am to assess for hepatorenal syndrome
   Metabolic Acidosis: Improving with saline.
   HTN: treated as an outpatient with Lasix/Aldactone
   - Holding these medications at this time given sepsis
   Migraines: patient on a triptan as an outpatient.  Will hold at this
   time.
   Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-23**] 05:33 PM
   Arterial Line - [**2112-11-24**] 05:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-23**] 05:33 PM
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-26 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2112-11-25**] 11:08 AM
   - Transudative by protein, LDH is elevated but serum LDH rising
 BLOOD CULTURED - At [**2112-11-25**] 10:15 PM
   Her synthetic function continues to do poorly. Has now had several low
   glucoses but was hypoglycemic with low of 16 that responded quickly to
   IV dextrose and checking sugars q1h has shown improvement but still
   with ongoing requirement for dextrose infusion. Lactate was rising
   coincident with sepsis and anaerobic metabolism. 2 amps of bicarb
   given.
   Paralyzed overnight to gain better synchrony with the vent and
   paralysis removed this morning.
   Started on levophed as BP dropped overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-23**] 05:19 PM
   Vancomycin - [**2112-11-25**] 10:09 AM
   Azithromycin - [**2112-11-25**] 09:05 PM
   Metronidazole - [**2112-11-26**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-26**] 06:10 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Cisatracurium - 0.03 mg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-25**] 08:00 AM
   Cisatracurium - [**2112-11-25**] 09:20 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2112-11-26**] 04:10 AM
   Dextrose 50% - [**2112-11-26**] 05:00 AM
   Other medications:
   Review of systems: Review of systems is unchanged from admission
   Flowsheet Data as of  [**2112-11-26**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 104 (94 - 108) bpm
   BP: 116/46(71) {84/36(54) - 121/66(359)} mmHg
   RR: 35 (13 - 35) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 24 (13 - 25)mmHg
   Total In:
                                                                  3,010 mL
                                                                    803 mL
   PO:
   TF:
   IVF:
                                                                  2,730 mL
                                                                    653 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,121 mL
                                                                     14 mL
   Urine:
                                                                     51 mL
                                                                     14 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
                                                                    850 mL
   Balance:
                                                                  1,889 mL
                                                                    789 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 31 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.19/45/85.[**Numeric Identifier 433**]/14/-10
   Ve: 13.6 L/min
   PaO2 / FiO2: 131
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube. Bleeding from
   mouth unable to be fully visualized.
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Peripheral Vascular: warm
   Respiratory / Chest: (Breath Sounds: diminished at bases
   Abd: soft, non-rigid.
   Neurologic: Pupils reactive but sluggish bilaterally.
   Labs / Radiology
   100 K/uL
   7.8 g/dL
   80 mg/dL
   4.7 mg/dL
   16 mEq/L
   5.0 mEq/L
   64          mg/dL
   99 mEq/L
   135                    mEq/L
   25.1 %
   24.3 K/uL
        [image002.jpg]
                            [**2112-11-25**]  12:51 PM
                            [**2112-11-25**]  05:03 PM
                            [**2112-11-25**]  07:43 PM
                            [**2112-11-25**]  09:53 PM
                            [**2112-11-25**]  11:01 PM
                            [**2112-11-26**]  12:22 AM
                            [**2112-11-26**]  01:58 AM
                            [**2112-11-26**]  03:33 AM
                            [**2112-11-26**]  03:50 AM
                            [**2112-11-26**]  06:11 AM
   WBC
   21.5
   21.4
   24.3
   Hct
   25.8
   24.9
   25.1
   Plt
   82
   93
   100
   Cr
   3.2
   3.8
   4.1
   TCO2
   18
   18
   17
   17
   17
   17
   18
   Glucose
   68
   51
   16
   Other labs: PT / PTT / INR:51.5
 49.5 / 66
65.5 / 5.9
   ALT / AST:69/553, Alk Phos / T Bili:139/7.2, Differential-Neuts:82.0 %,
   Band:6.0 %, Lymph:8.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:95 mg/dL,
   Lactic Acid:7.9 mmol/L, Albumin:3.3 g/dL, LDH:1496 IU/L, Ca++:7.5
   mg/dL, Mg++:3.1 mg/dL, PO4:8.3 mg/dL
     [**2112-11-25**]  11:28a   PLEURAL FLUID. pH: 7.26 Protein  1.7    Glucose
   68   LD(LDH): 278 Amylase: 60 Albumin: <1.0
                                 WBC 1350    RBC  5650  Poly  39    Lymph
   8    Mono  14 EOs  Meso: 14 Macro: 18 Other: 7  (cytology pnd)
   Imaging: CXR: interval improvement but residual diffuse airspace
   disease
   Microbiology:  Pleural Fluid:
    3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
    NO MICROORGANISMS SEEN.
   [**2112-11-24**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   {YEAST}
   [**2112-11-23**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE BACTERIA}
   Assessment and Plan :  49F with ARDS, sepsis, and Liver/Renal failure.
   #Sepsis: Likely underlying pneumonia progressing to ARDS, hepatorenal
   syndrome, and multiorgan failure
   - Vancomycin, Zosyn, Azithromycin for empiric CAP coverage
   - Zosyn for empiric SBP coverage
   - Albumin for empiric SBP treatment
   -Thoracentesis [**11-25**] removed 850cc serosanguinous fluid. f/u cultures,
   labs. Gram stain negative; f/u culture
   -Coags TID, checking for DIC, replete fibrinogen over ~100. check smear
   for schistocytes (reviewed o/n, negative)
   #Respiratory failure:  ARDS net ventilation, but increasing respiratory
   rate to 35.
   Paralyzed yesterday because of vent [**Last Name (LF) 1493**], [**First Name3 (LF) 116**] release paralysis
   now to re-evaluate.
   #Liver Failure: EtOH and hep c cirrhosis, history of hepatic
   encephalopathy.  Elevated bilirubin and INR. Thrombocytopenic but
   platelets are not dropping. Liver service is following and saw last
   night and this morning. As per hepatology service, infection/sepsis may
   preclude transplant so plan is to continue with supportive care.
   -holding lasix/aldactone in setting of hepatorenal syndrome
   -liver service following
   - NGT placed for lactulose administration
   Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 when FSG < 100
   - Follow lactates
   Coagulopathy: can replete fibrinogen. Smear reviewed overnight and no
   e/o DIC or schistocytes seen, and therefore this is probably a
   synthetic problem with the liver.
   -administered vitamin K 1mg IV [**2112-11-25**]
   - FFP if active bleeding or planned line
   - cryo for further fibrinogen decrease.
   #ARF: Cr 4.1.  Likely from hepatorenal syndrome, as patient is
   adequately volume resuscitated. [**Month (only) 11**] also be from  ATN.
   -check U lytes which have low but not negligible sodium
   -midodrine 10mg TID, octreotide 100mcg TID, albumin 50g IV daily
   - f/u renal recs: discussed with renal team and will plan family
   meeting re: CVVH. Renal recommended adding bicarbonate, so changed
   bicarb infusion with D5.
   #Migraines: Will hold at this time.
   #Depression: hold paxil at this time.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-23**] 05:33 PM
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Prophylaxis:
   DVT:  currently bleeding
   Stress ulcer: PPI
   VAP:  Routine care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2112-11-26 07:39:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events: Rising lactate, rising INR, with dropping fibrinogen
   130-95. Hypoglycemic BS 16 received amp glucose requiring D10.  Added
   levophed yesterday.  Paralyzed with cisatracurium currently off.
 THORACENTESIS - At [**2112-11-25**] 11:08 AM: right sided effusion.  350 cc
   red tinged.  Transudative by protein.  PH 7.26  Gram stain negative
 BLOOD CULTURED - At [**2112-11-25**] 10:15 PM
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-23**] 05:19 PM
   Vancomycin - [**2112-11-25**] 10:09 AM
   Azithromycin - [**2112-11-25**] 09:05 PM
   Metronidazole - [**2112-11-26**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-26**] 06:10 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Cisatracurium - 0.03 mg/Kg/hour Off
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-25**] 08:00 AM
   Cisatracurium - [**2112-11-25**] 09:20 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2112-11-26**] 04:10 AM
   Dextrose 50% - [**2112-11-26**] 05:00 AM
   Other medications:
   D 10 @ 50
   Rifamzimine
   Lactulose
   Chlorhexadine
   Octreotide
   Midodrine
   Albumin 50g qday
   Ca gluconate sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-26**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 104 (95 - 108) bpm
   BP: 116/46(71) {84/36(54) - 121/66(359)} mmHg
   RR: 35 (13 - 35) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
   CVP: 24 (13 - 25)mmHg
   Total In:
                                                                  3,010 mL
                                                                    851 mL
   PO:
   TF:
   IVF:
                                                                  2,730 mL
                                                                    701 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,121 mL
                                                                     14 mL
   Urine:
                                                                     51 mL
                                                                     14 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
                                                                    850 mL
   Balance:
                                                                  1,889 mL
                                                                    837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 31 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.19/45/85.[**Numeric Identifier 433**]/14/-10
   Ve: 13.6 L/min
   PaO2 / FiO2: 131
   Physical Examination
   Gen: Intubated
   HEENT: PERRL, icteric, blood from mouth and lips
   Heart: Tachy, s1s2 + SEM
   Lungs: Coarse BS diminished bases
   Abd:Distended, reducible umbilical hernia.
   Ext:2+ Diffuse edema
   Labs / Radiology: Lines tubes in place, improved left sided pulm
   infiltrates.  Bil infiltrates.
   7.8 g/dL
   100 K/uL
   16 mg/dL
   4.1 mg/dL
   14 mEq/L
   5.1 mEq/L
   61 mg/dL
   100 mEq/L
   134 mEq/L
   25.1 %
   24.3 K/uL
        [image002.jpg]
                            [**2112-11-25**]  12:51 PM
                            [**2112-11-25**]  05:03 PM
                            [**2112-11-25**]  07:43 PM
                            [**2112-11-25**]  09:53 PM
                            [**2112-11-25**]  11:01 PM
                            [**2112-11-26**]  12:22 AM
                            [**2112-11-26**]  01:58 AM
                            [**2112-11-26**]  03:33 AM
                            [**2112-11-26**]  03:50 AM
                            [**2112-11-26**]  06:11 AM
   WBC
   21.5
   21.4
   24.3
   Hct
   25.8
   24.9
   25.1
   Plt
   82
   93
   100
   Cr
   3.2
   3.8
   4.1
   TCO2
   18
   18
   17
   17
   17
   17
   18
   Glucose
   68
   51
   16
   Other labs: PT / PTT / INR:51.5/66.4/5.9, ALT / AST:69/553, Alk Phos /
   T Bili:139/7.2, Differential-Neuts:82.0 %, Band:6.0 %, Lymph:8.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:95 mg/dL, Lactic Acid:7.9 mmol/L,
   Albumin:3.3 g/dL, LDH:1496 IU/L, Ca++:7.5 mg/dL, Mg++:3.1 mg/dL,
   PO4:8.3 mg/dL  Vanc 26.1
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   49W HCV, EtOH cirrhosis
 listed for liver transplant presented to OSH
   ED after fall, no fx on imaging, inc WBC, tachypneic, tachycardic,
   transferred [**Hospital1 1**].  Subsequently intubated for tachypnea, worsening
   resp acidosis.  Started on octreotide and midodrine for HRS.
   1) Sepsis
   Source of sepsis pna vs. abdominal (SBP).
   Continue antibiotics vanc, zosyn, azithro and flagy.  Day #4 vanc,
   zosyn and azithro day 3 flagyl.  Total 10 day course.
   Will check urine legionella if negative will stop azithromycin.
   Progressive resp failure adds evidence for PNA but also could be factor
   of fluid overload and evolving met acicdosis.
   Small amount of ascites not amenable to tapping.
   Considering CT to further assess for sites infection.
   Continue levophed
   2) Hypoxemic resp failure-improved with paralytics, x-ray improved
   Vent per ARDS net protocol
   Will hold on paralytics
   Check gas and remove dead space tubing
   ? component of shunt (? Hepatopulm)
   3) ARF
   Creat rising and urine output falling off
 currently ~10cc/hr
   despite fluid resuscitation.
   Concerning for HRS.
   Octreotide & midodrine.
   Consulted renal regarding CVVH.
   Bicarb drip per renal will hold if oxygenation drops secondary to
   volume
   4)Coagulopathy
   INR up, plt stable
   synthetic fxn due to liver disease plus potential consumptive from
   sepsis
   IV vit K, will need FFP prior to procedures.
   5) Liver failure-hypoglycemia concerning for end stage liver disease.
   Continue glucose drip.
   6) Goals of care-Will discuss with liver service if she is still a
   candidate for transplant.  Will discuss goals of care with family and
   family meeting.  Per liver service patient is not currently a
   transplant candidate given active infection.  Renal service concerned
   that CVVH with not change the underlying prognosis if patient is not a
   transplant candidate.
   ICU Care
   Nutrition:
   Glycemic Control:  D10
   Lines:
   20 Gauge - [**2112-11-23**] 05:33 PM
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  Protinix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2112-11-27 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2112-11-26**] 11:22 PM
 FEVER - 102.0
F - [**2112-11-26**] 08:00 PM
   1.       Renal - IV Bicarb to correct acidosis; increased albumin to
   [**Hospital1 **].
   2.       Removed some dead space from tubing
   3.       Family
 patient is DNR/DNI, although she would want CVVH
   4.       Bicarb infusion stopped as she needed larger PEEP and FiO2
   requirements
   5.       Changed A-line over the wire
   6.       Given one unit of blood for Hct 20 -> 19.  Given an additional
   2 units -> 20, given 2 more
   7.       2 bags of platelets given for a drop of 79 to 58.
   8.       Fibrinogen: 184 after cryo.
   9.       CVVH line placed by Renal fellow.
   10.    Total blood products: 3 pRBCs, 14 FFP, 1 Cryo, 2 PLTS (ordered
   this morning)
   11.    Paralyzed and patient became PEEP to 20, PIP was 40, Plateau 34
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-25**] 10:09 AM
   Azithromycin - [**2112-11-26**] 08:00 PM
   Metronidazole - [**2112-11-27**] 04:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-27**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Cisatracurium - 0.05 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-26**] 08:00 AM
   Dextrose 50% - [**2112-11-27**] 04:36 AM
   Cisatracurium - [**2112-11-27**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-27**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.4
C (97.6
   HR: 89 (89 - 101) bpm
   BP: 97/39(57) {94/35(55) - 124/114(118)} mmHg
   RR: 35 (31 - 50) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 27 (13 - 33)mmHg
   Total In:
                                                                  5,487 mL
                                                                  1,692 mL
   PO:
   TF:
   IVF:
                                                                  2,442 mL
                                                                    877 mL
   Blood products:
                                                                  2,895 mL
                                                                    645 mL
   Total out:
                                                                     36 mL
                                                                  1,125 mL
   Urine:
                                                                     36 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,451 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 34 (34 - 34) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.25/42/75/19/-8
   Ve: 14.1 L/min
   PaO2 / FiO2: 75
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   7.1 g/dL
   100 mg/dL
   5.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   57 mg/dL
   96 mEq/L
   135 mEq/L
   20.7 %
   17.9 K/uL
        [image002.jpg]
                            [**2112-11-26**]  06:11 AM
                            [**2112-11-26**]  09:09 AM
                            [**2112-11-26**]  02:27 PM
                            [**2112-11-26**]  03:06 PM
                            [**2112-11-26**]  08:07 PM
                            [**2112-11-26**]  10:33 PM
                            [**2112-11-27**]  12:10 AM
                            [**2112-11-27**]  12:17 AM
                            [**2112-11-27**]  05:08 AM
                            [**2112-11-27**]  06:14 AM
   WBC
   18.7
   17.9
   Hct
   20
   19.0
   19.5
   20.7
   Plt
   79
   58
   Cr
   4.7
   4.9
   5.3
   5.0
   TCO2
   18
   18
   19
   19
   19
   Glucose
   80
   78
   66
   100
   Other labs: PT / PTT / INR:26.5/50.1/2.6, ALT / AST:[**Telephone/Fax (1) 1502**], Alk Phos
   / T Bili:139/9.4, Differential-Neuts:82.0 %, Band:6.0 %, Lymph:8.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:166 mg/dL, Lactic Acid:6.7 mmol/L,
   Albumin:3.6 g/dL, LDH:2469 IU/L, Ca++:8.4 mg/dL, Mg++:3.0 mg/dL,
   PO4:7.2 mg/dL
   Assessment and Plan :  49F with ARDS, sepsis, and Liver/Renal failure.
   #Sepsis: Likely underlying pneumonia progressing to ARDS, hepatorenal
   syndrome, and multiorgan failure
   - Vancomycin, Zosyn, Azithromycin for empiric CAP coverage
   - Zosyn for empiric SBP coverage
   - Albumin for empiric SBP treatment
   -Thoracentesis [**11-25**] removed 850cc serosanguinous fluid. f/u cultures,
   labs. Gram stain negative; f/u culture
   -Coags TID, checking for DIC, replete fibrinogen over ~100. check smear
   for schistocytes (reviewed o/n, negative)
   #Respiratory failure:  ARDS net ventilation, but increasing respiratory
   rate to 35.
   Paralyzed yesterday because of vent [**Last Name (LF) 1493**], [**First Name3 (LF) 116**] release paralysis
   now to re-evaluate.
   #Liver Failure: EtOH and hep c cirrhosis, history of hepatic
   encephalopathy.  Elevated bilirubin and INR. Thrombocytopenic but
   platelets are not dropping. Liver service is following and saw last
   night and this morning. As per hepatology service, infection/sepsis may
   preclude transplant so plan is to continue with supportive care.
   -holding lasix/aldactone in setting of hepatorenal syndrome
   -liver service following
   - NGT placed for lactulose administration
   Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 when FSG < 100
   - Follow lactates
   Coagulopathy: can replete fibrinogen. Smear reviewed overnight and no
   e/o DIC or schistocytes seen, and therefore this is probably a
   synthetic problem with the liver.
   -administered vitamin K 1mg IV [**2112-11-25**]
   - FFP if active bleeding or planned line
   - cryo for further fibrinogen decrease.
   #ARF: Cr 4.1.  Likely from hepatorenal syndrome, as patient is
   adequately volume resuscitated. [**Month (only) 11**] also be from  ATN.
   -check U lytes which have low but not negligible sodium
   -midodrine 10mg TID, octreotide 100mcg TID, albumin 50g IV daily
   - f/u renal recs: discussed with renal team and will plan family
   meeting re: CVVH. Renal recommended adding bicarbonate, so changed
   bicarb infusion with D5.
   #Migraines: Will hold at this time.
   #Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-27 08:06:00 Physician Attending Progress Note
24 Hour Events: Family meeting, code status changed to DNR/DNI.  PEEP
   increased to 20 and FIO2 increased to 100%.  CVVH line placed.
   Received total 3 units of PRBC and 2 additional units ordered.  2 Units
   plt, 1unit cryp and 8 units of FFP.  Restarted on paralytic.  Received
   1 amp D50 with sugar of 66.
 DIALYSIS CATHETER - START [**2112-11-26**] 11:22 PM
 FEVER - 102.0
F - [**2112-11-26**] 08:00 PM
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-25**] 10:09 AM
   Azithromycin - [**2112-11-26**] 08:00 PM
   Metronidazole - [**2112-11-27**] 04:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-27**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Cisatracurium - 0.06 mg/Kg/hour
   Other ICU medications:
   Dextrose 50% - [**2112-11-27**] 04:36 AM
   Cisatracurium - [**2112-11-27**] 05:43 AM
   Other medications:
   Rifaxamine held
   Lactulose 30mg tid
   Chlorhexadine
   Octreotide
   Protonix
   Midodrine held
   Albumin 50gm [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-27**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.1
C (97
   HR: 88 (88 - 101) bpm
   BP: 96/38(56) {94/35(55) - 124/114(118)} mmHg
   RR: 35 (31 - 50) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
   CVP: 29 (13 - 33)mmHg
   Total In:
                                                                  5,487 mL
                                                                  1,827 mL
   PO:
   TF:
   IVF:
                                                                  2,442 mL
                                                                    955 mL
   Blood products:
                                                                  2,895 mL
                                                                    702 mL
   Total out:
                                                                     36 mL
                                                                  1,364 mL
   Urine:
                                                                     36 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,451 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 34 (34 - 34) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.25/42/75/19/-8
   Ve: 14.1 L/min
   PaO2 / FiO2: 75
   Physical Examination
   Gen:Intubated
   HEENT:Icteric, PERRL, bleeding from mounth
   Heart:RRR s1s2 +SEM
   Lungs:Clear anterior
   Abd:Distended, reducible umbilical hernia
   Ext: Diffuse anasarca and LE edema.
   Labs / Radiology: Chest lines and tubes in place, increased pulmonary
   infiltrates.
   7.1 g/dL
   58 K/uL
   100 mg/dL
   5.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   57 mg/dL
   96 mEq/L
   135 mEq/L
   20.7 %
   17.9 K/uL
        [image002.jpg]
   No New Micro data.  Stool neg C.Diff
                            [**2112-11-26**]  06:11 AM
                            [**2112-11-26**]  09:09 AM
                            [**2112-11-26**]  02:27 PM
                            [**2112-11-26**]  03:06 PM
                            [**2112-11-26**]  08:07 PM
                            [**2112-11-26**]  10:33 PM
                            [**2112-11-27**]  12:10 AM
                            [**2112-11-27**]  12:17 AM
                            [**2112-11-27**]  05:08 AM
                            [**2112-11-27**]  06:14 AM
   WBC
   18.7
   17.9
   Hct
   20
   19.0
   19.5
   20.7
   Plt
   79
   58
   Cr
   4.7
   4.9
   5.3
   5.0
   TCO2
   18
   18
   19
   19
   19
   Glucose
   80
   78
   66
   100
   Other labs: PT / PTT / INR:26.5/50.1/2.6, ALT / AST:[**Telephone/Fax (1) 1502**], Alk Phos
   / T Bili:139/9.4, Differential-Neuts:82.0 %, Band:6.0 %, Lymph:8.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:166 mg/dL, Lactic Acid:6.7 mmol/L,
   Albumin:3.6 g/dL, LDH:2469 IU/L, Ca++:8.4 mg/dL, Mg++:3.0 mg/dL,
   PO4:7.2 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points.
   Sepsis
   Source of sepsis pna vs. abdominal (SBP) with increasing lactate,
   decreasing HCO3 despite broad spectrum Abx since admit
   Progressive resp failure adds evidence for PNA but also could be factor
   of fluid overload and evolving met acicdosis.
   Small amount of ascites not amenable to tapping
 may benefit from
   bedside u/s if retapping deamed to change mgmt
   Continue broad spectrum antibiotics
   F/u Cx data currently not covering VRE or fungal.
   Hypoxemic resp failure
   Cont high FiO2  requirement 1.0
   Vent per ARDS net protocol, will decrease FiO2
   ? component of shunt (? Hepatopulm)
   Continue paralytic
   ARF
   Creat rising and urine output falling off
 currently ~10cc/hr
   despite fluid resuscitation.
   Concerning for HRS.  Octreotide & midodrine. Continue CVVH.
   Coagulopathy
   INR up, plt dropping
   synthetic fxn due to liver disease plus potential consumptive from
   sepsis
   IV vit K
   Cryo for fib <100 with bleeding
   Not responding to transfusion-Source of bleeding secondary to mucosal
   bleeding also with arterial stick in groin as a possible source of
   bleed without options for intervention
   Code status-DNR, continue family support given poor prognosis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Prophylaxis:
   DVT: bleeding, boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :
   Total time spent: 36

2112-11-28 07:46:00 Physician Resident Progress Note
Chief Complaint: Sepsis, Liver Failure
   24 Hour Events:
   CVVH Started, attempting to run -50cc at present
   Transiently on levophed yesterday but weaned back off
   Given cryo x1 for fibrinogen 87
   FiO2 weaned back to 80%
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-27**] 12:00 PM
   Azithromycin - [**2112-11-27**] 11:00 PM
   Metronidazole - [**2112-11-28**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-28**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-27**] 08:00 AM
   Dextrose 50% - [**2112-11-28**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2112-11-28**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 92 (88 - 102) bpm
   BP: 86/53(67) {76/37(56) - 127/115(118)} mmHg
   RR: 35 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 32 (24 - 32)mmHg
   Total In:
                                                                  7,262 mL
                                                                  1,452 mL
   PO:
   TF:
   IVF:
                                                                  4,729 mL
                                                                  1,094 mL
   Blood products:
                                                                  2,152 mL
                                                                    308 mL
   Total out:
                                                                  5,843 mL
                                                                  1,780 mL
   Urine:
                                                                     13 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,419 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/34/87.[**Numeric Identifier 274**]/19/-7
   Ve: 14.2 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, paralyzed
   Labs / Radiology
   106 K/uL
   8.5 g/dL
   42 mg/dL
   2.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   32 mg/dL
   93 mEq/L
   134 mEq/L
   23.9 %
   16.6 K/uL
        [image002.jpg]
                            [**2112-11-27**]  06:14 AM
                            [**2112-11-27**]  11:04 AM
                            [**2112-11-27**]  12:00 PM
                            [**2112-11-27**]  02:25 PM
                            [**2112-11-27**]  06:05 PM
                            [**2112-11-27**]  06:25 PM
                            [**2112-11-27**]  08:29 PM
                            [**2112-11-27**]  08:41 PM
                            [**2112-11-28**]  03:21 AM
                            [**2112-11-28**]  03:42 AM
   WBC
   23.3
   19.7
   16.6
   Hct
   28.4
   24.6
   23.9
   Plt
   172
   122
   106
   Cr
   3.4
   3.0
   2.8
   TCO2
   19
   17
   18
   18
   18
   Glucose
   53
   84
   65
   57
   42
   Other labs: PT / PTT / INR:36.5/52.6/3.9, ALT / AST:139/896, Alk Phos /
   T Bili:139/14.1, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:105 mg/dL, Lactic Acid:6.3 mmol/L,
   Albumin:4.5 g/dL, LDH:1152 IU/L, Ca++:10.8 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.1 mg/dL
   Imaging: diffuse airspace opacities
   bilaterally consistent with known ARDS
   Microbiology: [**2112-11-27**]  BLOOD CULTURE NGTD
   [**2112-11-27**]  BLOOD CULTURE NGTD
   [**2112-11-26**]  BLOOD CULTURE NGTD
   [**2112-11-25**]  BLOOD CULTURE NGTD
   [**2112-11-25**]  BLOOD CULTURE NGTD
   [**2112-11-25**]  PLEURAL FLUID NGTD
   [**2112-11-25**]  STOOL CDiff -
   [**2112-11-24**]  SPUTUM CULTURE-YEAST
   [**2112-11-24**]  BLOOD CULTURE NGTD
   [**2112-11-24**]  BLOOD CULTURE NGTD
   [**2112-11-23**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE BACTERIA alpha
   strep}
   Assessment and Plan :  49F with ARDS, sepsis, and Liver/Renal failure.
   #Sepsis: Likely underlying pneumonia progressing to ARDS, hepatorenal
   syndrome, and multiorgan failure
   - Vancomycin, Zosyn, for empiric CAP coverage
 will need to dose with
   CVVH,
   - Azithromycin completed. Legionella urinary antigen unable to be sent
   - Currently off levophed now but will aim for MAPS<65. Poor a-line
   tracing may need to be replaced
   - Albumin for empiric SBP treatment
   - Smear negative for shistocytes
    #Respiratory failure:  ARDS net ventilation, but increasing
   respiratory rate to 35.
   -          Patient reparalyzed.  Continuing hyperventilation.
   -          Wean down F1O[2] as tolerated.
   # Liver Failure
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below
   ##Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function continues to decline.  Patient
   started on CVVH on the morning of [**2112-11-27**]
   - Supportive care
   - holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   ## Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 when FSG < 100,
   - Follow lactates
   - Her hypoglycemia is likely due to ongoing liver dysfunction, but will
   add on random cortisol to see if her cortisol is either very low or
   very high (as expected)
   ## Coagulopathy: Smear reviewed overnight and no e/o DIC or
   schistocytes seen, and therefore this is probably a synthetic problem
   with the liver.
   -administered vitamin K 1mg IV [**2112-11-25**]
   - FFP if active bleeding or planned line
   - Cryo for fibrinogen < 100.
   #Migraines: Will hold at this time.
   #Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Prophylaxis:
   DVT: coagulopathy and bleeding, on pneumoboots
   Stress ulcer:
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2112-11-29 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting was held which served as update. Remains DNR/DNI
   FiO2 weaned back to 60%, PEEP stayed at 20
   remains paralyzed on the vent
   Received one unit of cryo for fibrinogen of 60
   Intermittently on levo overnight for MAPs ~60
   Still IV dextrose dependent; continuing to uptitrate D10 and bolus
   dextrose as needed
   Random cortisol of 13.2
   Continued on CVVH
   - Phos low, repleting with IV Na Phos
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-27**] 12:00 PM
   Azithromycin - [**2112-11-27**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-28**] 12:22 PM
   Metronidazole - [**2112-11-29**] 04:00 AM
   Piperacillin - [**2112-11-29**] 06:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Midazolam (Versed) - 5 mg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-28**] 08:22 AM
   Dextrose 50% - [**2112-11-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 97 (84 - 103) bpm
   BP: 122/74(90) {60/42(57) - 251/246(249)} mmHg
   RR: 32 (27 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 26 (17 - 298)mmHg
   Total In:
                                                                  5,446 mL
                                                                  2,340 mL
   PO:
   TF:
   IVF:
                                                                  4,638 mL
                                                                  2,017 mL
   Blood products:
                                                                    683 mL
                                                                    323 mL
   Total out:
                                                                  5,326 mL
                                                                  2,084 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    120 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 92%
   ABG: 7.38/36/75/21/-2
   Ve: 12.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   9.8 g/dL
   91 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   20 mg/dL
   93 mEq/L
   130 mEq/L
   27.0 %
   15.9 K/uL
        [image002.jpg]
                            [**2112-11-28**]  03:42 AM
                            [**2112-11-28**]  09:39 AM
                            [**2112-11-28**]  10:07 AM
                            [**2112-11-28**]  03:56 PM
                            [**2112-11-28**]  04:30 PM
                            [**2112-11-28**]  09:40 PM
                            [**2112-11-28**]  09:44 PM
                            [**2112-11-28**]  11:22 PM
                            [**2112-11-29**]  04:16 AM
                            [**2112-11-29**]  04:30 AM
   WBC
   11.6
   14.3
   15.9
   Hct
   27.5
   27.8
   27.0
   Plt
   67
   64
   61
   Cr
   2.8
   2.0
   2.0
   2.0
   TCO2
   18
   23
   22
   Glucose
   45
   47
   55
   54
   99
   91
   Other labs: PT / PTT / INR:43.4/69.3/4.8, ALT / AST:80/442, Alk Phos /
   T Bili:131/18.4, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:67 mg/dL, Lactic Acid:6.0 mmol/L,
   Albumin:4.5 g/dL, LDH:559 IU/L, Ca++:10.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan :  49F with ARDS, sepsis, and Liver/Renal failure.
   #Sepsis: Likely underlying pneumonia progressing to ARDS, hepatorenal
   syndrome, and multiorgan failure
   - Vancomycin, Zosyn, for empiric CAP coverage
 will need to dose with
   CVVH,
   - Azithromycin completed. Legionella urinary antigen unable to be sent
   - Currently off levophed now but will aim for MAPS<65. Poor a-line
   tracing may need to be replaced
   - Albumin for empiric SBP treatment
   Coagulopathy: likely due to liver failure, although DIC, hemolysis also
   a concern.  Coagulation parameters still elevated although improving.
   - Will send for another smear
   - Send haptoglobin
   - FFP if active bleeding or planned line
   - Cryo for fibrinogen < 100.
    #Respiratory failure:  ARDS net ventilation, but increasing
   respiratory rate to 35.
   -    Patient deparalyzed this morning and will resume as needed
   -    Wean down F1O[2] as tolerated.
   # Liver Failure:
   - Increased indirect bilirubin and may be due to poor conjugation
   rather than hemolysis.  Will workup with smear and hapto.
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below
   #Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function continues to decline.  Patient
   started on CVVH on the morning of [**2112-11-27**]
   - Supportive care
   - holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   ## Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 when FSG < 100,
   - Follow lactates
   - Her hypoglycemia is likely due to ongoing liver dysfunction, but will
   add on random cortisol to see if her cortisol is either very low or
   very high (as expected)
   #Migraines: Will hold at this time.
   #Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-29 09:11:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis, liver failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Family meeting yesterday - remains DNR
   - FiO2 [**Month (only) 202**] to 0.6
   - Some progress weaning Levophed
   - Remains on paralytics
   - Cont on CVVH
   History obtained from Medical records
   Patient unable to provide history: Sedated, Paralytics
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-27**] 12:00 PM
   Azithromycin - [**2112-11-27**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-28**] 12:22 PM
   Metronidazole - [**2112-11-29**] 04:00 AM
   Piperacillin - [**2112-11-29**] 06:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Midazolam (Versed) - 5 mg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Dextrose 50% - [**2112-11-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: paralytics
   Psychiatric / Sleep: paralytics
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2112-11-29**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 97 (84 - 103) bpm
   BP: 279/276(277) {60/42(57) - 279/276(277)} mmHg
   RR: 32 (27 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
   CVP: 26 (17 - 298)mmHg
   Total In:
                                                                  5,446 mL
                                                                  2,698 mL
   PO:
   TF:
   IVF:
                                                                  4,638 mL
                                                                  2,309 mL
   Blood products:
                                                                    683 mL
                                                                    389 mL
   Total out:
                                                                  5,326 mL
                                                                  2,622 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    120 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 35 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.38/36/75/21/-2
   Ve: 12.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Pupils dilated, icteric
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anteriorly)
   Abdominal: No(t) Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Musculoskeletal: Unable to stand
   Skin:  Cool, Jaundice
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   64 K/uL
   91 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   20 mg/dL
   93 mEq/L
   130 mEq/L
   26.3 %
   14.7 K/uL
        [image002.jpg]
                            [**2112-11-28**]  09:39 AM
                            [**2112-11-28**]  10:07 AM
                            [**2112-11-28**]  03:56 PM
                            [**2112-11-28**]  04:30 PM
                            [**2112-11-28**]  09:40 PM
                            [**2112-11-28**]  09:44 PM
                            [**2112-11-28**]  11:22 PM
                            [**2112-11-29**]  04:16 AM
                            [**2112-11-29**]  04:30 AM
                            [**2112-11-29**]  07:49 AM
   WBC
   11.6
   14.3
   15.9
   14.7
   Hct
   27.5
   27.8
   27.0
   26.3
   Plt
   67
   64
   61
   64
   Cr
   2.8
   2.0
   2.0
   2.0
   TCO2
   23
   22
   Glucose
   45
   47
   55
   54
   99
   91
   Other labs: PT / PTT / INR:43.4/69.3/4.8, ALT / AST:80/442, Alk Phos /
   T Bili:131/18.4, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:67 mg/dL, Lactic Acid:6.0 mmol/L,
   Albumin:4.5 g/dL, LDH:559 IU/L, Ca++:10.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points.
   Sepsis
   Source of sepsis pna vs. abdominal (SBP)
   Current evidence points more to pna given progressive resp failure.
   However, could also represent fluid overload and increased resp demands
   due to evolving met acicdosis.
   Small amount of ascites not amenable to tapping
 may benefit from
   bedside u/s if retapping deamed to change mgmt
   Has completed Azithro.
   Continue vanc/zosyn pending cx data guidance.
   F/u Cx data as available
   Requiring levophed intermittently
   Resp failure, hypoxemic
   Vent per ARDS net protocol
   Able to wean FiO2  to 0.6.
   cont decrease FiO2 as tolerated
   Wean off paralytics and assess ability to adequate oxygenate off
   ? component of shunt (? Hepatopulm)
   ARF
   Anuric
   ATN vs. HRS
   Cont CVVH
   Cont  Octreotide & midodrine
   Coagulopathy
   INR up, plt cont to fall
   synthetic fxn due to liver disease plus potential consumptive from
   sepsis
   Cryo for fib <100 with bleeding
   Anemia
   Not responding to transfusion-Source of bleeding secondary to mucosal
   bleeding also with arterial stick in groin as a possible source of
   bleed
   Liver failure
   Trends improving w/ [**Month (only) 202**] TA, coagulopathy improving
   Liver service following.
   Hypogylcemia
   Requiring D10 gtt to maintain.
   ? liver synthetic fxn though typically would see in face of other signs
   of severe/worsening liver failure including worsening coagulopathy
   Code status
   DNR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-24**] 05:07 AM
   18 Gauge - [**2112-11-24**] 12:30 PM
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2112-11-30 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-11-29**] 02:40 PM
 ARTERIAL LINE - START [**2112-11-29**] 03:00 PM
   =============================
   Deparalyzed and did well
   FiO2 increased to 71%.  ABG 7.32/41/61.  Will check again -> 7.32/39/62
   [**Hospital1 **] CBCs: slight increase in WBCs, Hct stable
   FFP 93, recheck 77
given cryo
   Given Platelets for plt of 39
   Smear: occasional schistos
   Haptoglobin < 20.
   A-line placed in R brachial artery
   Blood products: 2 bag of cryo, 0 pRBC, 2 FFP, 2 platelets
   Renal recs: continue current management
   GI Recs: continue current management, consider stress dose steroids for
   hypotension and hypoglycemia
   Cdiff negative
   Sputum and blood cultures sent for hypothermia and increasing
   leuckocytosis
   CVVH increased for fluid removal with stable vital signs.
   Levo off during the day, but reinitiated with increased fluid removal
   during CVVH.
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2112-11-27**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-11-28**] 12:22 PM
   Vancomycin - [**2112-11-29**] 10:00 AM
   Metronidazole - [**2112-11-30**] 04:00 AM
   Piperacillin - [**2112-11-30**] 06:01 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-30**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 92 (84 - 101) bpm
   BP: 114/43(62) {78/38(54) - 141/87(95)} mmHg
   RR: 32 (23 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 20 (19 - 26)mmHg
   Total In:
                                                                  7,381 mL
                                                                  2,592 mL
   PO:
   TF:
   IVF:
                                                                  6,012 mL
                                                                  1,748 mL
   Blood products:
                                                                  1,249 mL
                                                                    724 mL
   Total out:
                                                                  9,097 mL
                                                                  2,190 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,716 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/40/81.[**Numeric Identifier **]/18/-4
   Ve: 13.5 L/min
   PaO2 / FiO2: 101
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   8.8 g/dL
   98 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.0 mEq/L
   14 mg/dL
   91 mEq/L
   127 mEq/L
   25.5 %
   22.6 K/uL
        [image002.jpg]
                            [**2112-11-29**]  07:49 AM
                            [**2112-11-29**]  10:41 AM
                            [**2112-11-29**]  01:56 PM
                            [**2112-11-29**]  03:15 PM
                            [**2112-11-29**]  03:18 PM
                            [**2112-11-29**]  07:58 PM
                            [**2112-11-29**]  08:28 PM
                            [**2112-11-30**]  02:28 AM
                            [**2112-11-30**]  02:40 AM
                            [**2112-11-30**]  05:54 AM
   WBC
   14.7
   16.9
   17.1
   22.6
   Hct
   26.3
   26.0
   25.6
   25.5
   Plt
   64
   50
   39
   112
   Cr
   1.8
   1.6
   1.5
   TCO2
   22
   21
   21
   22
   Glucose
   170
   167
   134
   97
   98
   Other labs: PT / PTT / INR:31.7/60.0/3.3, ALT / AST:57/229, Alk Phos /
   T Bili:116/20.9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:1.0 %, Eos:2.0 %, Fibrinogen:77 mg/dL, Lactic Acid:5.0 mmol/L,
   Albumin:5.0 g/dL, LDH:527 IU/L, Ca++:11.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan :  49F with ARDS, sepsis, and Liver/Renal failure.
   #Sepsis: Patient initially with presumed RLL pna that appeared to
   resolve radiographically and objectively while on broad spectrum abx.
   Now she is hypothermic with a new leuckocytosis and possible LLL
   infiltrate.  Concern for VAP.
   - Continue Vancomycin, Zosyn, for empiric CAP coverage
 will need to
   dose with CVVH,
   - Azithromycin completed. Legionella urinary antigen unable to be sent
   - Will DC Flagyl as patient has been Cdiff negative
   - Will attempt BAL in order to get sputum sample as she does not have
   copius secretions
   - Will start Levoquin in order to double cover Pseudomonas
   - Attempting to wean off Levophed, but requiring it during CVVH
   Coagulopathy: likely due to liver failure, although DIC, hemolysis also
   a concern.  Coagulation parameters still elevated although improving.
   - Smear with occasional schistos, haptoglobin < 20, both thought to be
   due to underlying liver failure as opposed to DIC.  No clinical signs
   of DIC at this point.
   - Cryo for fibrinogen < 100.
   - Patient given 2 U FFP yesterday
    #Respiratory failure:  ARDS net ventilation, but increasing
   respiratory rate to 35.
   -    High PIPs and plateau pressures today.  Will attempt to wean TV as
   tolerated
   -    Patient deparalyzed this morning and will resume as needed
   -    Wean down F1O[2] as tolerated.
   # Liver Failure:
   - Continually increasing indirect bilirubin and may be due to poor
   conjugation rather than hemolysis.
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below.
   #Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function remains stable.  Patient continues
   on CVVH.
   - Supportive care
   - holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   ## Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 when FSG < 100,
   - Follow lactates
   - Her hypoglycemia is likely due to ongoing liver dysfunction, but will
   add on random cortisol to see if her cortisol is either very low or
   very high (as expected)
   #Migraines: Will hold at this time.
   #Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Arterial Line - [**2112-11-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-12-01 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.BAL gram stain negative, culture pending.
   2.fibrinogen 87, gave cryo
   3.Decreased tidal volume to 360, PIP at 34.
   4. Decreased PEEP to 16 in an effort to improve oxygenation, hoping
   that maybe alveolar pressure was too high. Continued with hypoxic
   episodes while changing body position. increased PEEP back up to 18.
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2112-11-30**] 04:00 AM
   Piperacillin - [**2112-11-30**] 06:01 AM
   Levofloxacin - [**2112-11-30**] 10:20 AM
   Vancomycin - [**2112-11-30**] 03:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-12-1**] 06:17 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-30**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-12-1**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 99 (85 - 99) bpm
   BP: 105/37(59) {103/34(54) - 125/52(71)} mmHg
   RR: 34 (27 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 159 (159 - 173)mmHg
   Total In:
                                                                  7,042 mL
                                                                  1,686 mL
   PO:
   TF:
   IVF:
                                                                  5,643 mL
                                                                  1,418 mL
   Blood products:
                                                                  1,149 mL
                                                                    148 mL
   Total out:
                                                                 10,535 mL
                                                                  2,461 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,493 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/43/62/21/-5
   Ve: 12.7 L/min
   PaO2 / FiO2: 69
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   9.2 g/dL
   107 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.3 mEq/L
   10 mg/dL
   91 mEq/L
   128 mEq/L
   26.3 %
   28.3 K/uL
        [image002.jpg]
                            [**2112-11-30**]  09:16 AM
                            [**2112-11-30**]  10:06 AM
                            [**2112-11-30**]  11:30 AM
                            [**2112-11-30**]  04:04 PM
                            [**2112-11-30**]  04:13 PM
                            [**2112-11-30**]  07:07 PM
                            [**2112-11-30**]  08:40 PM
                            [**2112-11-30**]  10:18 PM
                            [**2112-12-1**]  02:56 AM
                            [**2112-12-1**]  04:08 AM
   WBC
   24.2
   27.0
   25.2
   28.3
   Hct
   24.9
   26.7
   25.2
   26.3
   Plt
   85
   73
   65
   70
   Cr
   1.2
   TCO2
   23
   21
   23
   23
   22
   22
   Glucose
   104
   107
   Other labs: PT / PTT / INR:43.0/80.1/4.8, ALT / AST:39/131, Alk Phos /
   T Bili:113/25.0, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:3.0 %,
   Mono:4.0 %, Eos:1.0 %, Fibrinogen:103 mg/dL, Lactic Acid:5.2 mmol/L,
   Albumin:5.2 g/dL, LDH:371 IU/L, Ca++:11.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   49F with ARDS, sepsis, and Liver/Renal failure.
   Sepsis: Patient initially with presumed RLL pna that appeared to
   resolve radiographically and objectively while on broad spectrum abx.
   Now she is hypothermic with a new leuckocytosis and possible LLL
   infiltrate.  Concern for VAP.
   - Continue Vancomycin, Zosyn, for empiric CAP coverage
 will need to
   dose with CVVH,
   - Continue Levoquin in order to double cover Pseudomonas
   - BAL culture pending
   - Attempting to wean off Levophed, but requiring it during CVVH
    Respiratory failure:  ARDS net ventilation
   -    Decreased TV yesterday to attempt tp decrease PIP
   -    Patient deparalyzed this morning and will resume as needed
   -    Wean down F1O2 as tolerated.
   Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function remains stable.  Patient continues
   on CVVH.
   - Supportive care
   - holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   Coagulopathy/Liver failure: likely due to liver failure.  Coagulation
   parameters still elevated although improving.
   - Cryo for fibrinogen < 100.
   - Continually increasing indirect bilirubin and may be due to poor
   conjugation rather than hemolysis.
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below.
   Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 gtt
   - Follow lactates
   Migraines: Will hold at this time.
   Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Arterial Line - [**2112-11-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-12-02 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-12-1**] 01:00 PM
 ESOPHOGEAL BALLOON - At [**2112-12-1**] 02:00 PM
 ULTRASOUND - At [**2112-12-1**] 03:06 PM
   abd.
 FEVER - 102.0
F - [**2112-12-1**] 12:00 PM
   ===============================
   1.BAL gram stain negative, culture no growth
   2.received fibrinogen twice
   3.placed esophageal balloon, allowing increase in PEEP
   4. Desatted overnight , went up on FiO2 and weaning back down. ABG
   showed good oxygenation
   5. Metronidazole added empirically
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2112-11-30**] 06:01 AM
   Vancomycin - [**2112-11-30**] 03:53 PM
   Levofloxacin - [**2112-12-1**] 01:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-12-2**] 12:09 AM
   Metronidazole - [**2112-12-2**] 01:10 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-12-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.6
C (97.8
   HR: 96 (88 - 108) bpm
   BP: 115/33(56) {97/27(48) - 125/43(68)} mmHg
   RR: 32 (30 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 17 (14 - 39)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  5,813 mL
                                                                  2,406 mL
   PO:
   TF:
   IVF:
                                                                  5,021 mL
                                                                  1,608 mL
   Blood products:
                                                                    522 mL
                                                                    618 mL
   Total out:
                                                                  7,163 mL
                                                                  2,379 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,350 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 32.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.27/45/220/20/-5
   Ve: 11.5 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.8 g/dL
   95 mg/dL
   1.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   9 mg/dL
   89 mEq/L
   128 mEq/L
   24.0 %
   28.1 K/uL
        [image002.jpg]
                            [**2112-12-1**]  09:43 AM
                            [**2112-12-1**]  01:52 PM
                            [**2112-12-1**]  02:19 PM
                            [**2112-12-1**]  03:55 PM
                            [**2112-12-1**]  07:30 PM
                            [**2112-12-1**]  08:02 PM
                            [**2112-12-2**]  01:20 AM
                            [**2112-12-2**]  01:36 AM
                            [**2112-12-2**]  05:09 AM
                            [**2112-12-2**]  05:24 AM
   WBC
   37.2
   34.7
   33.5
   28.1
   Hct
   25.7
   24.3
   24.3
   24.0
   Plt
   60
   57
   47
   93
   Cr
   1.5
   TCO2
   22
   22
   22
   21
   21
   22
   Glucose
   95
   95
   Other labs: PT / PTT / INR:38.9/89.1/4.2, ALT / AST:29/105, Alk Phos /
   T Bili:103/29.4, Differential-Neuts:83.0 %, Band:4.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:2.0 %, Fibrinogen:110 mg/dL, Lactic Acid:6.5 mmol/L,
   Albumin:5.9 g/dL, LDH:442 IU/L, Ca++:10.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
   49F with ARDS, sepsis, and Liver/Renal failure
   Sepsis: Patient initially with presumed RLL pna that appeared to
   resolve radiographically and objectively while on broad spectrum abx.
   Workup thus far negative for organism.  Flagyl was empirically added on
   [**2112-12-1**] and her leuckocytosis is decreasing.  She remains afebrile
   over the past 24 hours.
   - Continue Vancomycin, Zosyn, Levoquin for empiric coverage.
   - Follow-up cultures
   - Wean Levophed as needed
    Respiratory failure:  ARDS net ventilation.  Esophageal balloon placed
   for transthoracic measuring.
   - Wean Fi02, PEEP as tolerated
   - Wean down F1O2 as tolerated.
   Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function remains stable.  Patient continues
   on CVVH.
   - Supportive care
   - Holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   Coagulopathy/Liver failure: likely due to liver failure.  Coagulation
   parameters still elevated although improving.
   - Cryo for fibrinogen < 100.
   - Continually increasing indirect bilirubin and may be due to poor
   conjugation rather than hemolysis.
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below.
   Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 gtt
   - Follow lactates
   Migraines: Will hold at this time.
   Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Arterial Line - [**2112-11-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-12-03 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.        Culture data: NGTD
   2.        Fluid balance:
   3.        Citrate in CVVH added for clotting
   4.        Central Venous Sat: 74%
   5.        Radiology called to suggest that patient is getting a LLL
   pneumonia
   6.        Given 2u FFP and 1 cryo for INR 5.8 and Fibrinogen of 100.
   7.        Patient with increasing metabolic and respiratory acidosis.
   RR was increased and BP dropped.  Most recent gas: 7.20/49/104 and FiO2
   was decreased.
   8.        Lactate steadily increasing.  Patient put on Bicarb infusion.
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-12-2**] 01:00 PM
   Levofloxacin - [**2112-12-2**] 02:28 PM
   Metronidazole - [**2112-12-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-12-3**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 200 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-12-3**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 96 (90 - 100) bpm
   BP: 100/33(54) {85/29(47) - 121/44(65)} mmHg
   RR: 31 (27 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 18 (15 - 26)mmHg
   CO/CI (Fick): (7.3 L/min) / (4.2 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  8,885 mL
                                                                  2,313 mL
   PO:
   TF:
   IVF:
                                                                  7,145 mL
                                                                  2,113 mL
   Blood products:
                                                                  1,500 mL
                                                                    200 mL
   Total out:
                                                                  9,048 mL
                                                                  2,924 mL
   Urine:
   NG:
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                   -163 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   SpO2: 94%
   ABG: 7.20/49/104/16/-8
   Ve: 11 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.0 g/dL
   92 mg/dL
   0.4 mg/dL
   16 mEq/L
   3.2 mEq/L
   9 mg/dL
   87 mEq/L
   125 mEq/L
   23.4 %
   28.1 K/uL
        [image002.jpg]
                            [**2112-12-2**]  05:24 AM
                            [**2112-12-2**]  08:33 AM
                            [**2112-12-2**]  10:22 AM
                            [**2112-12-2**]  02:35 PM
                            [**2112-12-2**]  02:44 PM
                            [**2112-12-2**]  05:54 PM
                            [**2112-12-2**]  09:29 PM
                            [**2112-12-2**]  09:47 PM
                            [**2112-12-3**]  03:57 AM
                            [**2112-12-3**]  03:58 AM
   WBC
   27.7
   28.1
   Hct
   23.8
   23.4
   Plt
   85
   42
   Cr
   1.5
   0.4
   TCO2
   22
   22
   21
   22
   20
   20
   20
   Glucose
   107
   104
   93
   92
   Other labs: PT / PTT / INR:37.8/115.8/4.1, ALT / AST:28/112, Alk Phos /
   T Bili:116/32.0, Differential-Neuts:83.0 %, Band:7.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:116 mg/dL, Lactic Acid:8.4 mmol/L,
   Albumin:5.1 g/dL, LDH:442 IU/L, Ca++:10.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   49F with ARDS, sepsis, and Liver/Renal failure
   Sepsis: Patient initially with presumed RLL pna that appeared to
   resolve radiographically and objectively while on broad spectrum abx.
   Workup thus far negative for organism.  Flagyl was empirically added on
   [**2112-12-1**] and her leuckocytosis is decreasing.  She remains afebrile
   over the past 24 hours.
   - Continue Vancomycin, Zosyn, Levoquin for empiric coverage.
   - Follow-up cultures
   - Wean Levophed as needed
    Respiratory failure:  ARDS net ventilation.  Esophageal balloon placed
   for transpleural pressure monitoring
   - Wean Fi02, PEEP as tolerated
   - Wean down F1O2 as tolerated.
   Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function remains stable.  Patient continues
   on CVVH.
   - Supportive care
   - Holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   Thrombocytopenia/Coagulopathy/Liver failure: likely due to liver
   failure.  Coagulation parameters still elevated although improving.
   - Cryo for fibrinogen < 100.
   - Continually increasing indirect bilirubin and may be due to poor
   conjugation rather than hemolysis.
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below.
   Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 gtt
   - Follow lactates
   Migraines: Will hold at this time.
   Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Arterial Line - [**2112-11-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-12-03 09:09:00 Physician Attending Progress Note
Chief Complaint: sepsis, liver failure, ARDS
   HPI:
   48F with cirrhosis (HCV/etoh) awaiting transplant p/w altered MS [**First Name (Titles) 43**]
[**Last Name (Titles) 1641**]sis (wbc, tachy); not hypotensive initially.  Source of infection is
   likely pneumonia based on history and developing LLL infiltrate but no
   microorg identified.
   Continuing on broad spec empiric abx (Vanco, Zosyn, Levaquin, Flagyl
   (for cdiff?).  CXR also showed diffuse b/l patchy infiltrates which may
   be pulmonary edema or noncardiogenic pulmonary edema.  On ARDSnet low
   tidal volume and high PEEP (titrated via esophageal balloon).   S/p
   right [**Female First Name (un) 231**] with 850cc removed (transudate).  Remaining quite hypoxic
   with ARDS and a baseline pulmonary shunt (HPS)based on echo from
   earlier this month.  Acute renal failure not responsive to fluids:  ATN
   vs HRS-- Started on CVVH, still anuric.  FiO2 was at 90% with 22 PEEP
   (titrated per esophageal balloon) but much better today--FiO2 down to
   50% with PaO2 still in 90s.  Also less desating with turning suggesting
   less shunting.  Will keep on 50% and 22 PEEP tonite and if remains
   stable can begin to come down on PEEP tomorrow.  BP was stable but now
   requring low dose levophed to allow us to pull off fluid via CVVH to
   help her resp status.  Liver function remains tenous with coagulopathy,
   low fibrinogen.
   24 Hour Events:
   -given FFP and cryo for elevated coags and low fibrinogen
   -started bicarb gtt pH of 7.2 and lactate 8
   -had 1L residual of NGT tube feeds, TF stopped
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-12-2**] 01:00 PM
   Levofloxacin - [**2112-12-2**] 02:28 PM
   Metronidazole - [**2112-12-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-12-3**] 06:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-12-3**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.3
   HR: 96 (90 - 100) bpm
   BP: 92/31(53) {85/29(47) - 121/44(65)} mmHg
   RR: 32 (27 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
   CVP: 18 (15 - 26)mmHg
   Mixed Venous O2% Sat: 74 - 74
                                Total In:
                                                                  8,885 mL
                                                                  2,615 mL
   PO:
                                TF:
   IVF:
                                                                  7,145 mL
                                                                  2,415 mL
   Blood products:
                                                                  1,500 mL
                                                                    200 mL
   Total out:
                                                                  9,048 mL
                                                                  3,502 mL
   Urine:
   NG:
   900 mL
   Stool:
   Drains:
   Balance:
                                                                   -163 mL
                                                                   -887 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 97%
   ABG: 7.20/49/104/16/-8
   Ve: 11.3 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   42 K/uL
   92 mg/dL
   0.4 mg/dL
   16 mEq/L
   3.2 mEq/L
   9 mg/dL
   87 mEq/L
   125 mEq/L
   23.4 %
   28.1 K/uL
        [image002.jpg]
                            [**2112-12-2**]  05:24 AM
                            [**2112-12-2**]  08:33 AM
                            [**2112-12-2**]  10:22 AM
                            [**2112-12-2**]  02:35 PM
                            [**2112-12-2**]  02:44 PM
                            [**2112-12-2**]  05:54 PM
                            [**2112-12-2**]  09:29 PM
                            [**2112-12-2**]  09:47 PM
                            [**2112-12-3**]  03:57 AM
                            [**2112-12-3**]  03:58 AM
   WBC
   27.7
   28.1
   Hct
   23.8
   23.4
   Plt
   85
   42
   Cr
   1.5
   0.4
   TCO2
   22
   22
   21
   22
   20
   20
   20
   Glucose
   107
   104
   93
   92
   Other labs: PT / PTT / INR:84.8/150.0/13.4, ALT / AST:28/112, Alk Phos
   / T Bili:116/32.0, Differential-Neuts:83.0 %, Band:7.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:587 mg/dL, Lactic Acid:8.4 mmol/L,
   Albumin:5.1 g/dL, LDH:442 IU/L, Ca++:10.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
   -hypoglycemia, cont. D10 gtt
   -holding TF until residuals fall
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -octreotide, albumin
   -cont. CVVH
   Liver Failure:
   -bili rising, acidosis worsening, coags worsening
   -currently too sick to be listed
   -touch with family re: goals of care
   -give plts for <50, cont. FFP, cryo for fibrinogen <100
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
   -360X32 0.6 and 20 PEEP
   -cont to wean PEEP
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -vanco, zosyn, levaquin, flagyl
   -levophed for BP support
   -CVP 17-19, hct stable
   -consider antifungal therapy as sepsis seems to be worsening despite
   broad antibiotic coverage
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
   Lines-R subclavian, L femoral, R radial a line
   Ppx:pneumoboots, protonix
   HCP: sister, [**Name (NI) 1514**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Arterial Line - [**2112-11-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Physical Exam:
   Gen: NAD
   HEENT: mmm, intubated
   CV: RRR no m/r/g
   Pulm: bibasilar crackles
   Abd: soft, nontender, slightly distended, [**Month (only) 202**] BS
   Ext: 2+ edema, warm
   Skin: no rash, +jaundice
   ------ Protected Section Addendum Entered By:[**Name (NI) 1643**] [**Last Name (NamePattern1) 1068**], MD
   on:[**2112-12-3**] 12:29 ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2112-12-3**] 15:51 ------

2112-12-04 08:43:00 Physician Resident Progress Note
Chief Complaint: Shock
   24 Hour Events:
   Continues to remain intubated and sedated;
   Received additional products to support ongoing multiorgan liver
   failure
   1. [**12-4**], got 1 unit of platelets,
   2. [**12-4**] INR 10.0, got  units FFP
   3.  [**12-4**] Hct 18.0, gave 2u prbc's.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-12-3**] 12:00 PM
   Levofloxacin - [**2112-12-3**] 02:30 PM
   Metronidazole - [**2112-12-4**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-12-4**] 06:04 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Endocrine: Continued hypoglycemia requiring D10 gtt
   Flowsheet Data as of  [**2112-12-4**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 106 (96 - 108) bpm
   BP: 95/28(52) {95/22(46) - 116/39(63)} mmHg
   RR: 32 (22 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73 kg (admission): 73 kg
   Height: 61 Inch
    CVP: 23 (14 - 25)mmHg
   Total In:
                                                                  9,766 mL
                                                                  3,227 mL
   PO:
   TF:
   IVF:
                                                                  8,366 mL
                                                                  2,723 mL
   Blood products:
                                                                  1,400 mL
                                                                    504 mL
   Total out:
                                                                 10,306 mL
                                                                  2,637 mL
   Urine:
   NG:
                                                                    940 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 156 (156 - 168) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 60%
   PIP: 39 cmH2O
   Plateau: 37 cmH2O
   SpO2: 99%
   ABG: 7.22/45/78.[**Numeric Identifier 274**]/18/-9
   Ve: 11.5 L/min
   PaO2 / FiO2: 132
   Physical Examination
   Eyes / Conjunctiva: Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse b/s
   Abdominal: Soft, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   40 K/uL
   6.3 g/dL
   116 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.4 mEq/L
   7 mg/dL
   86 mEq/L
   129 mEq/L
   18.0 %
   22.7 K/uL
        [image002.jpg]
                            [**2112-12-3**]  10:53 AM
                            [**2112-12-3**]  12:36 PM
                            [**2112-12-3**]  02:21 PM
                            [**2112-12-3**]  03:51 PM
                            [**2112-12-3**]  04:04 PM
                            [**2112-12-3**]  08:06 PM
                            [**2112-12-3**]  09:57 PM
                            [**2112-12-3**]  10:08 PM
                            [**2112-12-4**]  03:59 AM
                            [**2112-12-4**]  04:01 AM
   WBC
   31.1
   29.9
   22.7
   Hct
   23.0
   21.0
   18.0
   Plt
   95
   67
   40
   Cr
   0.6
   1.3
   0.6
   TCO2
   19
   21
   20
   21
   19
   Glucose
   136
   132
   116
   Other labs: PT / PTT / INR:71.8/142.4/10.7, ALT / AST:28/112, Alk Phos
   / T Bili:113/33.3, Differential-Neuts:84.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:3.0 %, Fibrinogen:112 mg/dL, Lactic Acid:10.2 mmol/L,
   Albumin:5.8 g/dL, LDH:442 IU/L, Ca++:11.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.1 mg/dL
   Fluid analysis / Other labs: Fibrinogen: 112
   Microbiology:  [**2112-12-2**]  1+    (<1 per 1000X FIELD):   BUDDING YEAST
   WITH PSEUDOHYPHAE.
   [**2112-11-30**] 9:16 am Mini-BAL      BRONCHIAL LAVAGE.
      GRAM STAIN (Final [**2112-11-30**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2112-12-2**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2112-11-30**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   [**2112-12-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2112-12-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2112-12-1**]  SWAB VIRAL CULTURE-PRELIMINARY INPATIENT
   [**2112-12-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   49F with ARDS, sepsis, and Liver/Renal failure
   Sepsis: Patient initially with presumed RLL pna that appeared to
   resolve radiographically and objectively while on broad spectrum abx.
   Workup thus far negative for organism. Flagyl was empirically added on
   [**2112-12-1**] and her leuckocytosis is decreasing. She remains afebrile over
   the past 24 hours.
   - Continue Vancomycin, Zosyn, Levoquin for empiric coverage.
   - Follow-up cultures
   - Wean Levophed as needed
   Respiratory failure: ARDS net ventilation. Esophageal balloon placed
   for transpleural pressure monitoring
   - Wean Fi02, PEEP as tolerated
   - Wean down F1O2 as tolerated.
   Hepatorenal Syndrome: EtOH and HepC cirrhosis, history of hepatic
   encephalopathy. Liver/Renal function remains stable. Patient continues
   on CVVH.
   - Supportive care
   - Holding lasix/aldactone in setting of hepatorenal syndrome
   - Patient on Midodrine/Octreotide/Albumin for treatment
   - Patient on CVVH for fluid removal if tolerated
   Thrombocytopenia/Coagulopathy/Liver failure: likely due to liver
   failure. Coagulation parameters still elevated although improving.
   - Cryo for fibrinogen < 100.
   - Continually increasing indirect bilirubin and may be due to poor
   conjugation rather than hemolysis.
   - Liver following; continuing supportive care for now. Subsequent liver
   problems as below.
   Hypoglycemia: trending toward being unable to maintain blood sugar
   levels likely secondary to ongoing liver failure and multiorgan
   dysfunction. Switching to anaerobic metabolism that we are reversing by
   doing D10 gtt and checking more frequent fingersticks.
   - D10 gtt
   - Follow lactates
   Migraines: Will hold at this time.
   Depression: hold paxil at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-11-24**] 08:35 PM
   Dialysis Catheter - [**2112-11-26**] 11:22 PM
   Arterial Line - [**2112-11-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: